US04400509
A solution of 12.3 g (75 mmoles) of trichloroacetic acid in 30 ml of 1,2-dichloroethane was added dropwise over 10 minutes at room temperature to a mixture of 34 mg (0.18 mmole) of saccharin and 31.3 ml (150 mmoles) of hexamethyldisilazane while a stream of dry nitrogen was passed over the mixture whereby a precipitate was formed. Then the mixture was refluxed for 1.5 hours whereby the two-layer system present at the outset faded into a homogeneous solution and the calculated amount of ammonia was collected. Then dichloroethane was removed by distillation under normal pressure whereby a small amount of solid was separated in the cooler and vacuum distillation of the residue yielded 14.94 g (84.9%) of trimethylsilyl trichloroacetate with a boiling point of 63°-64° C. at 11 mm Hg and nD 25=1.4360.

reactant | trichloroacetic acid | 75 mmoles, 12.3 g | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
reactant | hexamethyldisilazane | 150 mmoles, 31.3 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | 1,2-dichloroethane | 30 ml | ClCCCl | C2H4Cl2
catalyst | saccharin | 0.18 mmole, 34 mg | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
product | trimethylsilyl trichloroacetate | 14.94 g, 84.9% | ClC(C(=O)O[Si](C)(C)C)(Cl)Cl | C5H9Cl3O2Si
